US08044213B2
A mixture of 0.469 g (1.31 mmole) of tert-butyl-[3-(5-fluoro-2-methoxy-4-nitro-phenoxy)-propoxy]-dimethyl-silane (IV.42), 0.331 g (1.31 mmole) of 2-amino-4-(3-chloro-phenyl)-thiazole-5-carboxylic acid amide (V.2), 1.28 g (3.93 mmole) of cesium carbonate and 5 mL of dimethylformamide was heated at 70 degrees for 3 hours. The mixture was cooled and 3 mL of 6M hydrochloric acid was added dropwise. Stirring was continued for 15 minutes. The mixture was poured into 50 mL of water, and the precipitated orange solid was collected by filtration, washed with water, and air-dried to give 0.535 g of 4-(3-chloro-phenyl)-2-[5-(3-hydroxy-propoxy)-4-methoxy-2-nitro-phenylamino]-thiazole-5-carboxylic acid amide (VI.42).

reactant | tert-butyl-[3-(5-fluoro-2-methoxy-4-nitro-phenoxy)-propoxy]-dimethyl-silane | 1.31 mmole, 0.469 g | C(C)(C)(C)[Si](C)(C)OCCCOC1=C(C=C(C(=C1)F)[N+](=O)[O-])OC | C16H26FNO5Si
reactant | 2-amino-4-(3-chloro-phenyl)-thiazole-5-carboxylic acid amide | 1.31 mmole, 0.331 g | NC=1SC(=C(N1)C1=CC(=CC=C1)Cl)C(=O)N | C10H8ClN3OS
reactant | cesium carbonate | 3.93 mmole, 1.28 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | hydrochloric acid | 6M, 3 mL | Cl | ClH
solvent | water | 50 mL | O | H2O
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-(3-chloro-phenyl)-2-[5-(3-hydroxy-propoxy)-4-methoxy-2-nitro-phenylamino]-thiazole-5-carboxylic acid amide | 0.535 g | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)N)NC1=C(C=C(C(=C1)OCCCO)OC)[N+](=O)[O-] | C20H19ClN4O6S
